US04935431
(i) Ethyl 3-methoxy-7-(2-methylphenylamino)thieno-[3.2-b]pyridine-6-carboxylate
Ethyl 3-methoxy-7-chlorothieno[3,2-b]pyridin-6-carboxylate (1.5 g, 0.0055 mol) and o-toluidine (1.18 g, 0.011 mol) in anisole (30 ml) were heated under reflux in an inert atmosphere for twenty hours. The solvent was evaporated under reduced pressure and the residue was taken up in chloroform (200 ml) and washed with 2N hydrochloric acid (3×100 ml). The organic phase was then washed with sodium bicarbonate solution (2×100 ml), and water, dried over magnesium sulphate, filtered and evaporated to give an oil. The oil was purified by flash chromatography using dichloromethane as eluant. The fractions containing the product were combined and evaporated to give a colourless product, 1.12 g. Recrystallisation from ethyl acetate gave the title compound, 0.63 g, m.p. 141°-143°.

reactant | Ethyl 3-methoxy-7-chlorothieno[3,2-b]pyridin-6-carboxylate | 0.0055 mol, 1.5 g | COC1=CSC=2C1=NC=C(C2Cl)C(=O)OCC | C11H10ClNO3S
reactant | o-toluidine | 0.011 mol, 1.18 g | NC=1C(=CC=CC1)C | C7H9N
solvent | anisole | 30 ml | C1(=CC=CC=C1)OC | C7H8O
product | Ethyl 3-methoxy-7-(2-methylphenylamino)thieno-[3.2-b]pyridine-6-carboxylate | COC1=CSC=2C1=NC=C(C2NC2=C(C=CC=C2)C)C(=O)OCC | C18H18N2O3S
